US09340538B2
Step A: 3-(morpholin-2-yl)propan-1-ol
Methyl 3-(morpholin-2-yl)propanoate (0.69 g, 4 mmol) was reacted with LiAlH4 (0.23 g, 6 mmol) according to the procedure as described in Example 68, Step A to give the title compound as colorless oil (0.43 g, 75%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 3-(morpholin-2-yl)propanoate | 4 mmol, 0.69 g | N1CC(OCC1)CCC(=O)OC | C8H15NO3
reactant | LiAlH4 | 6 mmol, 0.23 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 3-(morpholin-2-yl)propan-1-ol | 0.43 g, 75% | N1CC(OCC1)CCCO | C7H15NO2
